US04740596
A 263 mg quantity of benzyl 2-[3-phenoxyacetamido-4-(5-methoxybenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate and 147 mg of 5-methoxybenzothiazol-2-yl benzenethiosulfonate were dissolved in 2.5 ml of acetone. To the solution were added 0.5 ml of water and then 2 mg of sodium benzenesulfinate and the mixture was stirred at room temperature for 3 hour. The precipitated 5-methoxybenzothiazol-2-yl disulfide crystals were filtered and the filtrate was concentrated under reduced pressure. The residue was treated in the same manner as in Example 41, giving benzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate in a yield of 96%. The NMR spectrum data of the compound were identical with those of the desired compound. Table 2 shows the NMR spectrum data of the compound.

reactant | benzyl 2-[3-phenoxyacetamido-4-(5-methoxybenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SSC=1SC2=C(N1)C=C(C=C2)OC)C(C(=O)OCC2=CC=CC=C2)C(=C)C)=O | C31H29N3O6S3
reactant | 5-methoxybenzothiazol-2-yl benzenethiosulfonate | 147 mg | C1(=CC=CC=C1)S(=O)(OC=1SC2=C(N1)C=C(C=C2)OC)=S | C14H11NO3S3
reactant | water | 0.5 ml | O | H2O
reactant | sodium benzenesulfinate | 2 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | benzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate | yield of 96% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SS(=O)(=O)C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)C(=C)C)=O | C29H28N2O7S2
